US04560692
(b) 1-[2-(4-Chlorophenyl)-4-quinolinyl]-4-piperidinecarboxylic acid ethyl ester
A mixture of 10 g (36.4 mmol) of 4-chloro-2-(4-chlorophenyl)quinoline, and 20 ml of ethyl isonipecotate was stirred and heated at 160°-170° for 2 hr. It was then cooled and diluted with 200 ml of water and 5 ml of ethanol. The solid which formed was collected, and recrystallized from ethanol to give 5.5 g of product ester, mp 124°-126°.

reactant | 4-chloro-2-(4-chlorophenyl)quinoline | 36.4 mmol, 10 g | ClC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)Cl | C15H9Cl2N
reactant | ethyl isonipecotate | 20 ml | N1CCC(C(=O)OCC)CC1 | C8H15NO2
solvent | water | 200 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-[2-(4-Chlorophenyl)-4-quinolinyl]-4-piperidinecarboxylic acid ethyl ester | 5.5 g | C(C)OC(=O)C1CCN(CC1)C1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)Cl | C23H23ClN2O2
